US07145012B2
Preparation of Intermediate 5-Bromo-1-(2-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-1c)
To a stirred solution of 5-bromo-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester (2 g), isopropylamine (0.95 ml) and acetic acid (0.4 ml) in 1,2-dichloroethane (16 ml) was added sodium triacetoxyborohydride (1.8 g) and the resulting slurry was stirred for 18 hours. The reaction was diluted into ethyl acetate, washed with saturated aqueous sodium bicarbonate, brine, dried (Na2SO4) and concentrated in vacuo to afford the title compound (I-1c) as a golden oil, 2.5 g.

reactant | 5-bromo-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester | 2 g | C(C)OC(=O)C1=NN(C(=C1C=O)Br)C1=C(C=CC=C1)Cl | C13H10BrClN2O3
reactant | isopropylamine | 0.95 ml | C(C)(C)N | C3H9N
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 16 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-1-(2-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1CNC(C)C)Br)C1=C(C=CC=C1)Cl | C16H19BrClN3O2
